US06734180B1
Using N-phenyl-2-(tert-butoxycarbonylamino)-5-indan carboxamide (27 mg, 0.077 mmol), 4N hydrochloric acid-dioxane (2.0 ml) and acetic acid (6.0 ml), a similar procedure to Example 24 was carried out to obtain N-phenyl-2-amino-5-indan carboxamide hydrochloride. Then using ethanol (1 ml), triethylamine (0.50 ml, 3.6 mmol), 4-chloro-5-methylthieno[2,3-d]pyrimidine (18 mg, 1.0 mmol), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (haxane:ethyl acetate=4:1 to 1:1) to obtain the title compound (8 mg, 0.020 mmol) having the following physical properties:

reactant | N-phenyl-2-(tert-butoxycarbonylamino)-5-indan carboxamide | 0.077 mmol, 27 mg | C1(=CC=CC=C1)NC(=O)C=1C=C2CC(CC2=CC1)NC(=O)OC(C)(C)C | C21H24N2O3
reactant | hydrochloric acid dioxane | 4N, 2.0 ml | Cl.O1CCOCC1
solvent | acetic acid | 6.0 ml | C(C)(=O)O | C2H4O2
product | N-phenyl-2-amino-5-indan carboxamide hydrochloride | Cl.C1(=CC=CC=C1)NC(=O)C=1C=C2CC(CC2=CC1)N | InChI=1S/C16H16N2O.ClH/c17-14-9-11-6-7-12(8-13(11)10-14)16(19)18-15-4-2-1-3-5-15;/h1-8,14H,9-10,17H2,(H,18,19);1H
